US05883106
F. Ethyl 4-[3-[4-(2-methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate (Claimed Compound)
A solution of methyl 4-(3-mercaptophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate (1.04 g, 3.5 mmol), 4-(2-methylimidazol-1-yl)phenyliodide (0.89 g, 3.5 mmol), sodium t-butoxide (673 mg, 7 mmol) and tetrakis(triphenylphosphine)palladium (162 mg, 0.14 mmol) in dry ethanol (20 ml) was heated to reflux with stirring overnight. Volatiles were removed by evaporation and the residue was partitioned between ethyl acetate (100 ml) and water (100 ml). The aqueous layer was extracted with ethyl acetate (100 ml). The combined organic layers were washed with brine (100 ml), dried (magnesium sulfate) and concentrated to dryness to give 1.09 g of crude product as a brown liquid. Purification by column chromatography (silica-gel, 50 g; methanol in dichloromethane, increasing the ratio of methanol from 0% to 4%) afforded the titled compound (0.90 g).

reactant | methyl 4-(3-mercaptophenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 3.5 mmol, 1.04 g | SC=1C=C(C=CC1)C1(CCOCC1)C(=O)OC | C13H16O3S
reactant | 4-(2-methylimidazol-1-yl)phenyliodide | 3.5 mmol, 0.89 g | CC=1N(C=CN1)C1=CC=C(C=C1)I | C10H9IN2
reactant | sodium t-butoxide | 7 mmol, 673 mg | CC(C)([O-])C.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 mmol, 162 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-[3-[4-(2-methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 0.90 g | CC=1N(C=CN1)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)C(=O)OCC | C24H26N2O3S
